Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Motorcycle accident
 
Major Surgical or Invasive Procedure:
___: Placement R Chest Tube
___: ORIF R lunate

 
History of Present Illness:
___ yo M presented to the ED s/p being thrown approximately 20 
feet from a motorcycle at high speeds.  Helmet was intact.  Pt 
was unconscious at scene, awoke with EMS.  At evaluation, pt was 
in respiratory distress and demonstrated decreased right breath 
sounds.  Pt was needle decompressed at the scene.  
 
Past Medical History:
-Migraines (pediatric, resolved)
-wrist fracture, nonsurgical, left

-appendectomy
-addenoids/tonsills

 
Social History:
___
Family History:
Diabetes mellitus
 
Physical Exam:
Tmax 98.6 T current 98.2 HR 95 BP 132/70 RR 18 O2 97% RA
Gen: NAD
Pulm: CTAB
CV: RRRR
Ext: No C/C/E
 
Pertinent Results:
CXR ___ The small right pneumothorax is noted, decreased 
compared to the prior study on the expiratory view. The multiple 
fractured right ribs and known slow resolving right basal 
opacity are again noted. The left lung is unremarkable.  

 
Brief Hospital Course:
Pt was brought to the emergency department s/p motorcycle wreck. 
 Pt was diagnosed with R pneumothorax, Grade II-III liver 
laceration, R flail chest, and R wrist injury.  A chest tube was 
placed in the emergency department.  The  Pt was admitted to the 
ICU.  Ortho trauma and hand surgery were consulted.  Pt 
underwent ORIF perilunate dislocation, ORIF right scaphoid 
fracture, closed reduction and splinting of distal radius 
fracture, and open carpal tunnel release on ___.  Pt 
reported decreased pain postoperatively.  The liver laceration 
was treated conservatively.  Pain was managed with a PCA.  Pt 
was transferred to the floor on ___.  Physical therapy and 
occupational therapy evaluated the patient and recommended 
discharge home with home physical therapy and platform crutches. 
 On ___, the chest tube was removed.  Post-pull CXR 
demonstrated no increase in PTX.  Plain films of the L wrist 
demonstrated L ulnar fracture.  Hand surgery was reconsulted.  
On ___, the patient was discharged home with appropriate 
follow-up with orthopedics, plastic surgery, and trauma surgery. 
   

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six (6) 
hours.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.
Disp:*60 Tablet(s)* Refills:*0*
5. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for Breakthrough pain.
Disp:*60 Tablet(s)* Refills:*0*
6. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release(s)* Refills:*0*
7. Coumadin 1 mg Tablet Sig: One (1) Tablet PO once a day: 
Please continue this medication until your follow up appt with 
Dr. ___.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
Primary Diagnosis: ___ s/p Motorcycle Accident 
Injuries: 
R ___ rib fx's 
R tension PTX 
RUL/RLL pulm contusions 
Grade ___ liver lac 
L sacral and iliac wing fx's 
Trans-scaphoid scaphoid wrist fx w/perilunate disloc 
R Distal radial fx 
Morelle lesion (right back) 
L ulnar styloid fracture 

 
Discharge Condition:
Stable.
Tolerating a diet.
Pain controlled on oral medication.
Voiding without difficulty.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-You may remove the watertight dressing from your right chest in 
24 hrs. Please apply a dry sterile dressing to the site until a 
scab forms.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Please keep your right arm elevated at all times.  Please keep 
both of your splints in place, clean & dry, until you follow up 
with the Plastic Hand surgeon
.
Please continue to follow the activity instructions and teaching 
you received from Physical Therapy: Right lower extremity is 
Full weight bearing / Left lower extremity is Touchdown weight 
bearing. You may use platform crutches but you must keep your 
weight on your proximal forearm/elbow to bearing weight with 
your wrists
 
Followup Instructions:
___